### PR TITLE
Some more lemmas on permutations

### PR DESCRIPTION
**Pull request by hivert**
I'm offering to contribute various lemmas which can be of general interest about permutations. Maybe you'll find some of them too specialized. Those are used in https://github.com/hivert/Coq-Combi/blob/master/theories/SymGroup/cycles.v where I'm showing that any permutation has a unique (upto order) decomposition in cyclic permutation with disjoint support:

https://github.com/hivert/Coq-Combi/blob/018368517a5c96ebe4c4992892d3fed5fef3605b/theories/SymGroup/cycles.v#L624-L630 

This whole development could also be contributed to mathcomp later if there is sufficiently enough interest.

### CODE REVIEW

File: mathcomp/fingroup/action.v [hunk 1]
```diff
@@ -1688,8 +1688,38 @@ Proof. by rewrite ker_actperm astab_actby setIT (setIidPr (astab_sub _ _)). Qed.
...
+Lemma group_set_perm_ong : group_set perm_ong.
+Proof using.
+apply/group_setP; split => [| s t]; rewrite !inE;
+   [exact: perm_on1 | exact: perm_onM].
+Qed.
+Canonical perm_ong_group : {group {perm T}} := Group group_set_perm_ong.
+Lemma card_perm_ong : #|perm_ong| = #|S|`!.
+Proof using. by rewrite cardsE /= card_perm. Qed.
+
+Lemma perm_ongE : perm_ong = 'C(~:S | 'P).
```
Comment (CohenCyril) [inline mathcomp/fingroup/action.v]: Hi @hivert, I would expect this to be the definitional equality, so that it becomes canonically a group anyways... (so `group_set_perm_ong` and `perm_ong_group` would not be needed, if I am correct), and have a proof that `'C(~:S | 'P) = [set s | perm_on S s]` instead. Maybe in this context a name (`perm_ong`) is not needed anymore since 'C(~:S | 'P) is descriptive and short enough?
I did not try, but does that sound reasonable to you?

Comment (hivert) [reply mathcomp/fingroup/action.v]: Hi @CohenCyril. I can give a try on what it change on the rest of the code. I'll get back to you after that.

Comment (hivert) [reply mathcomp/fingroup/action.v]: I got a little problem using directly `'C(~:S | 'P)`. Indeed rewriting `inE` rewrite it to
```
(s \in [set: perm_of_finGroupType T]) &&
  (s \in [set a | ~: S \subset [set x | ('P)%act x a == x]])
```
which is largely unusable. More `rewrite !inE` leads to
```
 ~: S \subset [set x | aperm x s == x]
```
Having something which directly rewrites to
```
perm_on S s
```
Seems to me much natural.
As a consequence in my script, I need to be very careful to not rewrite inE before perm_onE on it.

See [this commit](https://github.com/hivert/Coq-Combi/commit/cb5975947ad804434831a9fedf6b947ad4a2cc08) if you want to have an idea of the effect. If you are curious the file `permcent.v` aims to compute the structure and therefore the cardinality of the centralizer of a given permutation which ultimately give a formula for the size of a conjugacy class. 

I leave it to you to decide if the ease to have something which simplifies to `perm_on S s` is worth the extra lines (and the time to maintain them).

File: mathcomp/fingroup/action.v [hunk 2]
```diff
@@ -1688,8 +1688,38 @@ Proof. by rewrite ker_actperm astab_actby setIT (setIidPr (astab_sub _ _)). Qed.
...
 
+Definition perm_ong : {set {perm T}} := [set s | perm_on S s].
+Lemma group_set_perm_ong : group_set perm_ong.
+Proof using.
+apply/group_setP; split => [| s t]; rewrite !inE;
+   [exact: perm_on1 | exact: perm_onM].
+Qed.
+Canonical perm_ong_group : {group {perm T}} := Group group_set_perm_ong.
+Lemma card_perm_ong : #|perm_ong| = #|S|`!.
+Proof using. by rewrite cardsE /= card_perm. Qed.
```
[the remark this answers is not in the document]
Comment (hivert) [reply mathcomp/fingroup/action.v]: It was just added automatically by 'Suggest Proof Using' (See [Asynchronous and Parallel Proof Processing](https://coq.inria.fr/refman/addendum/parallel-proof-processing.html)) I understood that this could be used to speedup compiling by building proof terms in parallel. Maybe it's not useful at all but since it was added automatically by a script and didn't clobber that much the file I left it. Moreover it is a simple and nice way to document the section hypothesis dependency which I find useful.

File: mathcomp/fingroup/perm.v [hunk 3]
```diff
@@ -513,6 +538,14 @@ Variable n : nat.
 Implicit Types i j : 'I_n.+1.
 Implicit Types s t : 'S_n.
 
+Lemma card_Sn : #|'S_(n)| = n`!.
```
[the remark this answers is not in the document]
Comment (amahboubi) [reply mathcomp/fingroup/perm.v]: Great! It would be super useful indeed to collect some examples, so as to complete the infrastructure material with the missing pieces.

[the remark this answers is not in the document]
Comment (hivert) [reply mathcomp/fingroup/perm.v]: Here is one instance:

```
Notation "#{ x }" :=  #|(x : {set _})|
Variable T : finType.
Implicit Types (A B X : {set T}) (P Q : {set {set T}}).

Lemma count_set_of_card (p : pred nat) P :
  count p [seq #{x} | x in P] = #|P :&: [set x | p #{x}]|.
Proof using.
rewrite cardE -size_filter /enum_mem -enumT /=.
rewrite filter_map size_map; congr size.
rewrite -filter_predI -enumT /=; apply eq_filter.
by move=> S; rewrite !inE andbC.
Qed.
```

**Comment by ggonthier** [comment]
This contribution addresses an important gap in the finite group library, namely the lack of support for the symmetry groups `Sym(X)`. This is a historical accident: permutations were initially implemented to support matrix operations (mainly, determinants), then support for group automorphism `Aut(X)` was developed, skipping over `Sym(X)` as this was not required for the Odd Order proof. The study of `Alt(X)` was primarily intended as an application, and thus never fully integrated in the library.
This is too important a topic to be handled piecewise; I suggest we work on a comprehensive PR that fully addresses it, and is consistent with the rest of the library. This means including your results on the decomposition in cycles, as well as support for cycle notation and structure, and n-transitivity. Some work will have to go in renaming: `perm_ong` should really be called `Sym`, `pcycle` in `perm.v` should really be called `porbit`, for instance.

**Comment by hivert** [comment]
Dear Georges, 

I'm quite happy that you consider this part of the development worthwhile being included in MathComp. Right now my main question is how to proceed further. I considered the few lemma proposed here as a requirement for the inclusion (in whatever form) of the cycle.v file.

**Comment by CohenCyril** [comment]
Hi @hivert, if I am right, @ggonthier suggests you to put all of your contributions to the symmetric group in one single PR (you may amend this one), so as to review and extend it globally rather than bits by bits.

**Comment by ggonthier** [comment]
Dear Florian, @CohenCyril is right. Peaking at `Coq-combi`, I think we'll need a few more results (see above) in order to do the topic justice. The finite group library mostly follows Aschbacher's Finite Group Theory textbook, so I'd like to use chapter 5 as a source for results and notation.
  It's clear that some notation from both `perm.v` and your own `cycle.v` will need to be changed. I must confess I didn't put enough thought into names in `perm.v` because I viewed `perm_on`, `pcycle` and `cycles` as mere stepping stones to get to `Aut` and `odd_perm`.
   Reviewing the textbook, a "cycle" is a permutation (not its support), so I should have used 'Sym', 'porbit' and 'porbits'. The text uses Fix(A) and Mov(A) to describe the fixed and moved points of a set of permutations, but we could also use `psupport s` for the moved points of a single permutation
(`support s` would conflict with an `ssralg` definition that is used for characters). We should also avoid `cyclic`, which is heavily used for groups; luckily it seems the more modern term is `circular`, which doesn't conflict with anything.
  Finally, I'd like to unify as much as possible the group isomorphism construction, and generalise the one given in `automorphism.v` rather than creating a new one from scratch. We can still have a variety of isomorphism lemmas; my experience is that these are more useful in practice, because it
is usually more efficient to use `isogP` to get a new isomorphism constant than to mess around with explicit instances of a generic construction.

**Comment by amahboubi** [comment]
Hi @hivert! We discussed your PR at the MathcompDev meeting today. How
can we help this PR progress? For instance, would an explicit todo list
help? Also, it's absolutely fine if you have no more time left to devote
to this particular PR, in which case we (the devs) could also take over
the finalization of the work entirely.

**Comment by amahboubi** [comment]
Hi @hivert ! @ybertot told us today that the two of you discussed in person, and that you agreed to let us take over this PR. Many thanks!

**Comment by hivert** [comment]
@amahboubi  Sure ! Please take what you want from my code. Sorry, I forgot to reply...

**Comment by amahboubi** [comment]
No worries, once again, thanks for your contribution.

**Comment by affeldt-aist** [comment]
I tried to address in a minimal way comments about this PR.

- new:
  + Definition:
    * Sym (action.v)
      - NB: alt.v already contains a definition for the identifier Sym
  + Lemma:
    * cast_perm (action.v)
- renamings:
  + Definitions:
    * pcycle (perm.v) -> porbit
    * pcycles -> porbits
  + Lemmas:
    * pcycleE -> porbitE
    * etc.
- @amahboubi suggested a simplification of card_Sn, which requires an
  intermediate lemma, relying on a generalization of subsetT (for all
  pred instead of all set) but this generalization requires the
  addition of pred_of_set here and there in the library
- @ggonthier suggested to work on a comprehensive PR to address the
  lack of support for the symmetry group Sym(X). See his comments for
  details. In a nutshell:
  + source for results and notations: Aschbacher's Finite Group Theory Chap. 5
  + use `psupport s` for the moved points of a single permutation
  + use `circular` instead of `cyclic`
  + generalize the group isomorphism construction from `automorphism.v`

**Comment by affeldt-aist** [comment]
Regarding the suggestion by @ggonthier to work on a comprehensive PR, we would like to reproduce part of the discussion that happened here as a new issue to keep track and eventually trigger a PR.

File: mathcomp/fingroup/action.v [hunk 4]
```diff
@@ -1680,8 +1681,45 @@ Proof. by rewrite ker_actperm astab_actby setIT (setIidPr (astab_sub _ _)). Qed.
...
+Proof.
+apply/group_setP; split => [| s t]; rewrite !inE;
+   [exact: perm_on1 | exact: perm_onM].
+Qed.
+Canonical Sym_group : {group {perm T}} := Group Sym_group_set.
+
+Lemma card_Sym : #|Sym| = #|S|`!.
+Proof. by rewrite cardsE /= card_perm. Qed.
+
+Lemma SymE : Sym = 'C(~:S | 'P).
```
Comment (CohenCyril) [inline mathcomp/fingroup/action.v:1713]:
```suggestion
Lemma SymE : Sym = 'C(~: S | 'P).
```

File: mathcomp/fingroup/action.v [hunk 5]
```diff
@@ -21,6 +21,7 @@ From mathcomp Require Import automorphism quotient.
 (*       groupAction D R == the structure for group actions of D on R. This   *)
 (*                          is a telescope on action D rT.                    *)
 (*         gact_range to == the range R of to : groupAction D R.              *)
+(*                 Sym S == the set of permutations with support S            *)
```
Comment (CohenCyril) [inline mathcomp/fingroup/action.v:24]: I would put `Sym`, `Sym_group`, and `card_Sym`  in `perm.v` and keep only `SymE ` in `action.v`

File: mathcomp/fingroup/perm.v [hunk 6]
```diff
@@ -208,6 +219,9 @@ move=> Su; rewrite -preim_permV; apply/setP=> x.
 by rewrite !inE -(perm_closed _ Su) permKV.
 Qed.
 
+Lemma imset_perm1 (S : {set T}) : [set fun_of_perm 1 x | x in S] = S.
```
Comment (CohenCyril) [inline mathcomp/fingroup/perm.v:222]:
```suggestion
Lemma imset_perm1 (S : {set T}) : [set (1 : {perm T}) x | x in S] = S.
```

**Comment by affeldt-aist** [comment]
I have updated `CHANGELOG_UNRELEASED` @CohenCyril

File: CHANGELOG_UNRELEASED.md [hunk 7]
```diff
@@ -29,6 +29,11 @@ The format is based on [Keep a Changelog](https://keepachangelog.com/en/1.0.0/).
 - Added lemmas `foldr_rcons`, `foldl_rcons`, `scanl_rcons` and
   `nth_cons_scanl` in `seq`
 
+- Add definition `Sym` in `perm`
```
Comment (CohenCyril) [inline CHANGELOG_UNRELEASED.md:32]:
```suggestion
```

File: CHANGELOG_UNRELEASED.md [hunk 8]
```diff
@@ -29,6 +29,11 @@ The format is based on [Keep a Changelog](https://keepachangelog.com/en/1.0.0/).
...
+
```
Comment (CohenCyril) [inline CHANGELOG_UNRELEASED.md:33]:
```suggestion
```

File: mathcomp/fingroup/perm.v [hunk 9]
```diff
@@ -576,3 +633,59 @@ Qed.
 End LiftPerm.
 
 Prenex Implicits lift_perm lift_permK.
+
+Lemma permS0 (g : 'S_0) : g = 1%g.
+Proof. by apply permP => x; case x. Qed.
+Lemma permS1 (g : 'S_1) : g = 1%g.
```
Comment (CohenCyril) [inline mathcomp/fingroup/perm.v:639]:
```suggestion

Lemma permS1 (g : 'S_1) : g = 1%g.
```

File: mathcomp/fingroup/perm.v [hunk 10]
```diff
@@ -322,70 +337,86 @@ Variable T : finType.
...
+Lemma porbitP s x y :
+  reflect (exists i, y = (s ^+ i) x) (y \in porbit s x).
+Proof using.
+apply (iffP idP) => [/porbitPmin [i _ ->]| [i ->]]; last exact: mem_porbit.
+by exists i.
+Qed.
 
-Lemma ncycles_mul_tperm s x y : let t := tperm x y in
-  #|pcycles (t * s)| + (x \notin pcycle s y).*2 = #|pcycles s| + (x != y).
+Lemma norbits_mul_tperm s x y : let t := tperm x y in
```
Comment (CohenCyril) [inline mathcomp/fingroup/perm.v:415]:
```suggestion
Lemma porbits_mul_tperm s x y : let t := tperm x y in
```
looks like a there used to be a typo

File: CHANGELOG_UNRELEASED.md [hunk 11]
```diff
@@ -29,6 +29,11 @@ The format is based on [Keep a Changelog](https://keepachangelog.com/en/1.0.0/).
...
+- Added lemmas `Sym_group_set`, `card_Sym` in `perm`, `SymE` in `action`
```
Comment (CohenCyril) [inline CHANGELOG_UNRELEASED.md:34]:
```suggestion
- Added definitions `cast_perm` with a group morphism canonical structure, and lemmas `permX_fix`, `imset_perm1`,  `permS0`, `permS1`, `cast_perm_id`, `cast_permE`, `cast_permK`, `cast_permKV`, `cast_perm_in`,  and `isom_cast_perm` in `perm`

- Added `Sym` with a group set canonical structure and lemmas `card_Sn` and `card_Sym` in `perm`

- Added `porbitP` and `porbitPmin` in `perm`

- Added `restr_perm_commute`, `SymE` in `action`
```

File: CHANGELOG_UNRELEASED.md [hunk 12]
```diff
@@ -159,6 +164,23 @@ The format is based on [Keep a Changelog](https://keepachangelog.com/en/1.0.0/).
...
+  + `mem_pcycle` -> `mem_porbit`
+  + `pcycle_id` -> `pcycle_orbit`
+  + `card_pcycle_neq0` -> `card_porbit_neq0`
+  + `uniq_traject_pcycle` -> `uniq_traject_porbit`
+  + `pcycle_traject` -> `porbit_traject`
+  + `iter_pcycle` -> `iter_porbit`
+  + `eq_pcycle_mem` -> `eq_porbit_mem`
+  + `pcycle_sym` -> `porbit_sym`
+  + `pcycle_perm` -> `porbit_perm`
+  + `pcyclePmin` -> `porbitPmin`
```
Comment (CohenCyril) [inline CHANGELOG_UNRELEASED.md:181]:
```suggestion
```

File: CHANGELOG_UNRELEASED.md [hunk 13]
```diff
@@ -159,6 +164,23 @@ The format is based on [Keep a Changelog](https://keepachangelog.com/en/1.0.0/).
...
+  + `pcycleP` -> `porbitP`
```
Comment (CohenCyril) [inline CHANGELOG_UNRELEASED.md:182]:
```suggestion
```

File: CHANGELOG_UNRELEASED.md [hunk 14]
```diff
@@ -159,6 +164,23 @@ The format is based on [Keep a Changelog](https://keepachangelog.com/en/1.0.0/).
...
+  + `ncycles_mul_tperm` -> `norbits_mul_tperm`
```
Comment (CohenCyril) [inline CHANGELOG_UNRELEASED.md:183]:
```suggestion
  + `ncycles_mul_tperm` -> `porbits_mul_tperm`
```

**Comment by affeldt-aist** [comment]
> can you doublecheck my suggestions?

done

File: CHANGELOG_UNRELEASED.md [hunk 15]
```diff
@@ -164,6 +175,20 @@ The format is based on [Keep a Changelog](https://keepachangelog.com/en/1.0.0/).
...
+  + `pcycle_actperm` -> `porbit_actperm`
+  + `mem_pcycle` -> `mem_porbit`
+  + `pcycle_id` -> `pcycle_orbit`
+  + `uniq_traject_pcycle` -> `uniq_traject_porbit`
+  + `pcycle_traject` -> `porbit_traject`
+  + `iter_pcycle` -> `iter_porbit`
+  + `eq_pcycle_mem` -> `eq_porbit_mem`
+  + `pcycle_sym` -> `porbit_sym`
+  + `pcycle_perm` -> `porbit_perm`
+  + `ncycles_mul_tperm` -> `porbits_mul_tperm`
```
Comment (pi8027) [inline CHANGELOG_UNRELEASED.md:191]: I think we should have deprecation notations for those renamings.

Comment (affeldt-aist) [reply CHANGELOG_UNRELEASED.md]: DONE

**Comment by ybertot** [comment]
@CohenCyril, can we conclude?

**Comment by CohenCyril** [comment]
> @CohenCyril, can we conclude?

Some proofs are not in the mathcomp ssreflect stype, please merge first and I will quickly submit a PR to fix them.

**Comment by affeldt-aist** [comment]
I have recorded the suggection by @ggonthier as issue #478 for the sake of visibility.

**Comment by amahboubi** [comment]
@affeldt-aist @ybertot: you have both recently contacted me offline but I would prefer to discuss here. What are you expecting from my side concerning this PR?

**Comment by affeldt-aist** [comment]
> @affeldt-aist @ybertot: you have both recently contacted me offline but I would prefer to discuss here. What are you expecting from my side concerning this PR?

We did address several of your comments but not all of them.
We wanted to tell you and make sure whether you think it is reasonable.

Here are details:
You suggested a simplification of `card_Sn`, which requires an
intermediate lemma, relying on a generalization of `subsetT` (for all
`pred`s instead of all `set`s) but this generalization requires the
addition of `pred_of_set` here and there in the library so we did not implement it.
(We addressed your other comments about documentation and renamings.)

Regarding the suggestion by @ggonthier we decided not to address it in this
PR and to record it as an issue for later:
https://github.com/math-comp/math-comp/issues/478
(However, we did address the comments about renamings and moved lemmas around
following new suggestions by @CohenCyril .)

**Comment by amahboubi** [comment]
@affeldt-aist thanks for clarifying. Is there a reason why not creating an issue for my unaddresed suggestion as well? In case no, I just created one using github's facility. 
I do not have enough time to allocate to this right now and this should not block the release process.

**Comment by amahboubi** [comment]
Note that the link automatically created does not work properly, does anyone know how to properly point to the entire conversation?

**Comment by CohenCyril** [comment]
> Note that the link automatically created does not work properly, does anyone know how to properly point to the entire conversation?

I did it.

**Comment by affeldt-aist** [comment]
> Is there a reason why not creating an issue for my unaddresed suggestion as well?
> In case no, I just created one using github's facility.

I did not create an issue right away because I was hoping that a solution might have emerged out of this discussion. At this point, recording the issue is the right thing to do imho.

**Comment by amahboubi** [comment]
> > Note that the link automatically created does not work properly, does anyone know how to properly point to the entire conversation?
> 
> I did it. (You can click on the "..." symbol and then "copy link" to get the permalink to any comment in any thread)

Thanks, and thanks for the tip!
